US04367234
5-(5-Bromo-2-methoxyphenyl)oxazolidine-2,4-dione
By the procedure of Example 3, 2-(5-bromo-2-methoxyphenyl)-2-trimethylsiloxyethanenitrile (16 g., 0.049 mole) in 320 ml. of tetrahydrofuran was reacted with phosgene. After stirring 16 hours at room temperature, the reaction was quenched into 1 liter of crushed ice and extracted with two 500 ml. portions of ethyl acetate. The combined ethyl acetate extracts were back washed with two 200 ml. portions of brine, dried over anhydrous magnesium sulfate, filtered and evaporated to solids. The solids were recrystallized from toluene to yield purified 5-(5-bromo-2-methoxyphenyl)oxazolidine-2,4-dione (10.7 g., m.p. 166°-167° C.).

reactant | 2-(5-bromo-2-methoxyphenyl)-2-trimethylsiloxyethanenitrile | 0.049 mole, 16 g | BrC=1C=CC(=C(C1)C(C#N)O[Si](C)(C)C)OC | C12H16BrNO2Si
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(5-Bromo-2-methoxyphenyl)oxazolidine-2,4-dione | BrC=1C=CC(=C(C1)C1C(NC(O1)=O)=O)OC | C10H8BrNO4
